US05733914
To a room temperature solution of 4-chloro-2-methylthio-5-pyrimidinecarboxylate ethyl ester (10.00 g, 43.10 mmol) in 150 mL of tetrahydrofuran was added triethylamine (18.5 mL, 133 mmol) followed by 9 mL of a 70% aqueous solution of ethylamine. The solution was stirred for 30 minutes, then concentrated in vacuo and partitioned between chloroform and saturated aqueous sodium bicarbonate. The organic layer was dried over magnesium sulfate, filtered, and concentrated to provide 9.32 g (90%) of 4-ethylamino-2-methylthio-5-pyrimidinecarboxylate ethyl ester as an oil.

reactant | 4-chloro-2-methylthio-5-pyrimidinecarboxylate ethyl ester | 43.10 mmol, 10.00 g | C(C)OC(=O)C=1C(=NC(=NC1)SC)Cl | C8H9ClN2O2S
reactant | triethylamine | 133 mmol, 18.5 mL | C(C)N(CC)CC | C6H15N
reactant | ethylamine | C(C)N | C2H7N
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 4-ethylamino-2-methylthio-5-pyrimidinecarboxylate ethyl ester | 9.32 g, 90% | C(C)OC(=O)C=1C(=NC(=NC1)SC)NCC | C10H15N3O2S
